US04831031
To a 25 ml round-bottomed flask equipped with condenser and N2 inlet were added 620 mg (2.64 mmol) of 4-(2,1,3-benzothiadiazolyl)-N-methylpiperazine, 0.224 ml (2.64 mmol) vinyl chloroformate, and 15 ml dichloroethane. The reaction was refluxed 16 hours, cooled, and evaporated. The residue was chromatographed on silica gel using methylene chloride/ethyl acetate as eluent, and the product fractions collected to give yellow solid 4-(2,1,3-benzothiadiazolyl)-N-vinyloxycarbonylpiperazine, 530 mg (69%). NMR (d, CDCl3): 3.6 (m, 4H), 3.8 (m, 4H), 4.4-5.0 (m, 2H), 6.6-7.6 (m, 4H).

reactant | 4-(2,1,3-benzothiadiazolyl)-N-methylpiperazine | 2.64 mmol, 620 mg | N=1SN=C2C1C=CC=C2N2CCN(CC2)C | C11H14N4S
reactant | vinyl chloroformate | 2.64 mmol, 0.224 ml | ClC(=O)OC=C | C3H3ClO2
reactant | dichloroethane | 15 ml | ClC(C)Cl | C2H4Cl2
product | 4-(2,1,3-benzothiadiazolyl)-N-vinyloxycarbonylpiperazine | N=1SN=C2C1C=CC=C2N2CCN(CC2)C(=O)OC=C | C13H14N4O2S
